US07157447B2
N-(2-(2-Oxooxazolidin-3-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
The title compound can be prepared from intermediate 27, 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid and 3-(2-(aminomethyl)phenyl)oxazolidin-2-one, derived from reduction of intermediate 116, 2-(2-oxooxazolidin-3-yl)benzonitrile. 1H NMR (400 MHz, DMSO-d6) δ ppm: 8.90 (1H, t, J=6.0 Hz), 7.58–7.32 (7H, m), 7.22 (2H, t, J=7.5 Hz), 5.08 (2H, s), 4.48 (2H, t, J=7.8 Hz), 4.44 (2H, d, J=6.0 Hz), 4.06–3.97 (4H, m), 3.88 (2H, m), 1.56 (6H, s); LCMS (M+H)+ m/z 505.

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)O | C17H18N2O5
reactant | 3-(2-(aminomethyl)phenyl)oxazolidin-2-one | NCC1=C(C=CC=C1)N1C(OCC1)=O | C10H12N2O2
product | N-(2-(2-Oxooxazolidin-3-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | O=C1OCCN1C1=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=CC=C1 | C27H28N4O6
